US06559164B1
But-2-enedioic Acid Mono-[3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl] Ester
To a solution of 1-Hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione, prepared as in example 1a, in 1:4 CH2Cl2:benzene, were added a large excess of fumaryl chloride and excess diisopropylethylamine. The reaction was stirred at room temperature for 20 min. Acetone and water were, added. The reaction mixture was diluted with CH2Cl2, washed with water, cold saturated NaHCO3, water and dried over Na2SO4. The resulting but-2-enedioic acid mono-[3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl] ester was purified by flash chromatography (yield 60%).

reactant | 1-Hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | OCN1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C23H18N4O5
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | fumaryl chloride | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Acetone | CC(=O)C | C3H6O
product | But-2-enedioic Acid Mono-[3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl] Ester | yield 60% | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(C=CC(=O)O)=O)=O | C27H20N4O8
